US05753679
0.2 g (0.00105 mol) of 1-benzyl-4-hydroxypiperidine and 0.26 ml (0.00184 mol) of triethylamine were dissolved in 10 ml of toluene and treated with 0.11 ml (0.00084 mol) of 2-chloro-benzoyl chloride. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 0.262 g (95%) of 1-benzyl-piperidin-4-yl 2-chloro-benzoate was obtained as white crystals; m.p. 143°-144°.

reactant | 1-benzyl-4-hydroxypiperidine | 0.00105 mol, 0.2 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.00184 mol, 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-benzoyl chloride | 0.00084 mol, 0.11 ml | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 2-chloro-benzoate | 0.262 g, 95% | ClC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H20ClNO2
